US04640916
To a solution of 193 mg of 2-[3-[4-(4-fluorophenyl)-1-piperazinyl]propyl]-2H-1,4-benzothiazine in 2 ml of dimethylformamide was added 20 mg of 60% sodium hydride in oil. The mixture was stirred at room temperature for 30 minutes and cooled with ice. To the resultant was added 0.07 ml of methyl iodide, and the mixture was stirred for further one hour. The reaction mixture was poured into water, and extracted with ethyl acetate. The extract was washed with water, dried (MgSO4) and concentrated to give 2-[3-[4-(4-fluorophenyl)-1-piperazinyl]propyl]-4-methyl-2H-1,4-benzothiazin-3(4H)-one as crystals. Recrystallization from ethyl acetate and hexane gave prisms, m.p. 103°-104° C. The yield was 84 mg (42%). IR and NMR spectra of this product was in agreement with those of the compound obtained in Example 34.

reactant | 2-[3-[4-(4-fluorophenyl)-1-piperazinyl]propyl]-2H-1,4-benzothiazine | 193 mg | FC1=CC=C(C=C1)N1CCN(CC1)CCCC1SC2=C(N=C1)C=CC=C2 | C21H24FN3S
reactant | sodium hydride | 20 mg | [H-].[Na+]
reactant | methyl iodide | 0.07 ml | CI | CH3I
reactant | water | O | H2O
reactant | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 2-[3-[4-(4-fluorophenyl)-1-piperazinyl]propyl]-4-methyl-2H-1,4-benzothiazin-3(4H)-one | FC1=CC=C(C=C1)N1CCN(CC1)CCCC1SC2=C(N(C1=O)C)C=CC=C2 | C22H26FN3OS
